US08217027B2
2-(4-methoxy-3-methylphenyl)acetic acid (1 g, 5.55 mmol) was dissolved in Tetrahydrofuran (27.7 ml). A solution of borane tetrahydrofuran complex (12.21 ml, 12.21 mmol) was added slowly under nitrogen. The reaction was stirred for about 18 h. Methanol was slowly added to quench the reaction The solution was rotovapped. More methanol was added. The solution was rotovapped. This was repeated twice. The solution was passed through a short pad of silica gel eluting with 1:1 EtOAc/heptane and then rotovapped to give 2-(4-methoxy-3-methylphenyl)ethanol (0.986 g, 5.93 mmol, 107% yield) as a colorless oil: 1H NMR (400 MHz, CDCl3) δ ppm 7.05 (m, 1H), 7.04 (m, 1H), 6.80 (m, 1H), 3.85 (s, 3H), 3.84 (t, 2H), 2.81 (t, 2H), 2.25 (s, 1H), 1.64 (s, 1H)

reactant | 2-(4-methoxy-3-methylphenyl)acetic acid | 5.55 mmol, 1 g | COC1=C(C=C(C=C1)CC(=O)O)C | C10H12O3
reactant | Methanol | CO | CH4O
reactant | EtOAc heptane | CCOC(=O)C.CCCCCCC
solvent | Tetrahydrofuran | 27.7 ml | O1CCCC1 | C4H8O
product | 2-(4-methoxy-3-methylphenyl)ethanol | 5.93 mmol, 0.986 g, 107% yield | COC1=C(C=C(C=C1)CCO)C | C10H14O2
